US07935707B2
C) 3-Cyclopropyl-5-pyridin-3-yl-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid sodium salt
To 0.9 g (2 mmol) 3-cyclopropyl-5-pyridin-3-yl-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester in 5 ml of EtOH was added 0.4 ml of 6 M sodium hydroxide solution (2 mmol) and the mixture heated to reflux for 6 h. The solvent was then evaporated, affording 1.0 g (quant.) of the title compound as a white solid. MS: 390.1 (MH+).

reactant | 3-cyclopropyl-5-pyridin-3-yl-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester | 2 mmol, 0.9 g | C(C)OC(=O)C=1N(C(=NC1C=1C=NC=CC1)C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C21H18F3N3O3
reactant | sodium hydroxide | 2 mmol, 6 M, 0.4 ml | [OH-].[Na+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 3-Cyclopropyl-5-pyridin-3-yl-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid sodium salt | [Na+].C1(CC1)N1C(=NC(=C1C(=O)[O-])C=1C=NC=CC1)C1=CC=C(C=C1)OC(F)(F)F | InChI=1S/C19H14F3N3O3.Na/c20-19(21,22)28-14-7-3-11(4-8-14)17-24-15(12-2-1-9-23-10-12)16(18(26)27)25(17)13-5-6-13;/h1-4,7-10,13H,5-6H2,(H,26,27);/q;+1/p-1
